US08476457B2
To a solution of 4-amino-3-iodo-5-nitro-benzoic acid methyl ester in ethyl acetate (50 mL) was added SnCl2 dihydrate. The mixture was heated to 70° C. for two hours, then cooled to room temperature and partitioned between ethyl acetate and saturated aqueous sodium bicarbonate. The organic layer was separated, dried over MgSO4, filtered and concentrated under reduced pressure to provide 1.68 g (quantitative) of 3,4-diamino-5-iodo-benzoic acid methyl ester.

reactant | 4-amino-3-iodo-5-nitro-benzoic acid methyl ester | COC(C1=CC(=C(C(=C1)[N+](=O)[O-])N)I)=O | C8H7IN2O4
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 3,4-diamino-5-iodo-benzoic acid methyl ester | 1.68 g | COC(C1=CC(=C(C(=C1)I)N)N)=O | C8H9IN2O2
